US05401851
2-Carboxy-6-hydroxybenzenesulfonic acid (1.8 mmole, 400 mg) was dissolved in 15 ml of oxalyl chloride. One drop of DMF was added. The reaction was stirred for 30 minutes at room temperature. The solvent was removed in vacuo, and 20 ml THF added. A solution of ethyl 2-(4-amino-1H-imidazol-1-yl)octanoate (prepared by the reduction of 1.8 mmoles of ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate in ethanol with 5% Pd/C) in 40 ml THF and 2.0 moles of triethylamine was added dropwise. The reaction was stirred at room temperature for 3 hours; ethyl acetate was added. The solution was washed with water, dried over sodium sulfate and concentrated. The intermediate was slurried in ether, filtered, chromatographed over silica gel eluted with 15% methanol in methylene chloride. The ester was hydrolyzed in 20 ml methanol and 45 ml of 2N NaOH at room temperature for 2 hours. The solvent was removed; water was added. The pH was adjusted to 2.0 using 5N HCL. The product was extracted into ethyl acetate, dried over sodium sulfate and concentrated to yield 2-[4-(3-Hydroxy-2-sulfobenzoyl)amino-1H-imidazol-1-yl]octanoic acid. (MS)

reactant | 2-Carboxy-6-hydroxybenzenesulfonic acid | 1.8 mmole, 400 mg | C(=O)(O)C1=C(C(=CC=C1)O)S(=O)(=O)O | C7H6O6S
reactant | ethyl 2-(4-amino-1H-imidazol-1-yl)octanoate | NC=1N=CN(C1)C(C(=O)OCC)CCCCCC | C13H23N3O2
reactant | ethyl 2-(4-nitro-1H-imidazol-1-yl)octanoate | 1.8 mmoles | [N+](=O)([O-])C=1N=CN(C1)C(C(=O)OCC)CCCCCC | C13H21N3O4
reactant | triethylamine | 2.0 moles | C(C)N(CC)CC | C6H15N
solvent | oxalyl chloride | 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(3-Hydroxy-2-sulfobenzoyl)amino-1H-imidazol-1-yl]octanoic acid | OC=1C(=C(C(=O)NC=2N=CN(C2)C(C(=O)O)CCCCCC)C=CC1)S(=O)(=O)O | C18H23N3O7S
